US04873087
Using GlyOMe·HCl (30.2 g), Boc-Proline (4.3 g), HOBt (28.37 g) and WSCD (38.43 ml), the process was carried out similarly as in Example 16, whereby slightly yellowish oily product was obtained (BOc-Pro-GlyOMe). The product (10.31 g) in dioxane (5ml) was added to 4.32 N-HCl in dioxane (30 ml) in an ice bath, then stirred for 30 min. at room temperature. The solution was evaporated and dried in vacuo, thereafter dissolved in DMF (30 ml) and neutralized by addition of NMM (0.5 ml). Boc-Proline (6.46 g), HOBt (4.05 g) in DMF (30 ml) was treated with WSCD (5.49 ml) and stirred for 30 min. in an ice bath. The solution was added to above neutralized solution and stirred for 2 hrs. at 0° C. and further overnight at room temperature. The solution was evaporated and dissolved in CHCl3 (300 ml), then washed with 5 % aqueous sodium bicarbonate solution, 1N-HCl, 1N-NaOH in this order. The solution was dehydrated and concentrated to give an oily product (16.84 g) (Boc-Pro-Pro-GlyOMe). Rf=0.65 (CHCl3 :EtOH:AcOEt 5:2:5).

reactant | GlyOMe·HCl | 30.2 g | NCC(=O)OC.Cl
reactant | Boc-Proline | 4.3 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | HOBt | 28.37 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
product | BOc-Pro GlyOMe | CC(C)(C)OC(=O)N1CCC[C@H]1C(=O)O.NCC(=O)OC | InChI=1S/C10H17NO4.C3H7NO2/c1-10(2,3)15-9(14)11-6-4-5-7(11)8(12)13;1-6-3(5)2-4/h7H,4-6H2,1-3H3,(H,12,13);2,4H2,1H3/t7-;/m0./s1
